US04343803
Preparation of 6-Methyl-2-Trichloromethyl-4-Pyrimidinyl Dimethylthiocarbamate
A mixture of 5.7 g (0.025 mole) 4-hydroxy-6-methyl-2-trichloromethylpyrimidine, 2.6 g (0.025 mole) triethylamine, 3.2 g (0.025 mole) dimethylthiocarbamoyl chloride, and 100 ml ether was refluxed 16 hours. A trace of dark solid was filtered out and the solution was evaporated on a steam bath to give a solid residue. This residue was extracted with hot ligroin to yield 4.3 g (55% yield) of product (mp 81°-83° C.) on cooling. The structure was confirmed via infrared and elemental analysis.

reactant | 4-hydroxy-6-methyl-2-trichloromethylpyrimidine | 0.025 mole, 5.7 g | OC1=NC(=NC(=C1)C)C(Cl)(Cl)Cl | C6H5Cl3N2O
reactant | triethylamine | 0.025 mole, 2.6 g | C(C)N(CC)CC | C6H15N
reactant | dimethylthiocarbamoyl chloride | 0.025 mole, 3.2 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | ether | 100 ml | CCOCC | C4H10O
product | 6-Methyl-2-Trichloromethyl-4-Pyrimidinyl Dimethylthiocarbamate | 4.3 g, 55% yield | CN(C(OC1=NC(=NC(=C1)C)C(Cl)(Cl)Cl)=S)C | C9H10Cl3N3OS
